US05326497
0.8 g of N,N'-dicyclohexylcarbodiimide was added within 5 minutes while stirring to a solution of 1.0 g of 2-[4-(5[propyloxy]-1-pentyl)phenyl]-5-hydroxypyrimidine, 0.4 g of (Z)-3-octenoic acid and 0.05 g of 4-(dimethylamino)pyridine in 30 ml of dichloromethane. The reaction mixture was stirred overnight, then filtered and the filtrate was washed with saturated sodium bicarbonate solution and with water and concentrated. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 4:1) and two-fold recrystallization of the thin-layer chromatographically pure fractions gave 1.0 g of 2-[4-(5-[propyloxy]-1-pentyl)phenyl]-5-{[(Z)-3-octenoyl]oxy}pyrimidine.

reactant | N,N'-dicyclohexylcarbodiimide | 0.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-[4-(5[propyloxy]-1-pentyl)phenyl]-5-hydroxypyrimidine | 1.0 g | C(CC)OCCCCCC1=CC=C(C=C1)C1=NC=C(C=N1)O | C18H24N2O2
reactant | (Z)-3-octenoic acid | 0.4 g | C(C\C=C/CCCC)(=O)O | C8H14O2
catalyst | 4-(dimethylamino)pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-[4-(5-[propyloxy]-1-pentyl)phenyl]-5-{[(Z)-3-octenoyl]oxy}pyrimidine | 1.0 g | C(CC)OCCCCCC1=CC=C(C=C1)C1=NC=C(C=N1)OC(C\C=C/CCCC)=O | C26H36N2O3
